US08859574B2
2,5-Dimethyl-4-(pyridin-3-yl)aniline (403 mg, 2.03 mmol) was dissolved in MeOH (5 mL) and conc. aqueous HCl (1 mL), followed by addition of PtO2 (40 mg). The flask was purged with H2 and the reaction was vigorously stirred at rt under H2 (1 atm). After two days, LCMS shows the completion of the reaction. The catalyst was removed by filtration and the remaining solution was concentrated in vacuo to give 2,5-Dimethyl-4-(piperidin-3-yl)aniline as a white solid, which can be used in subsequent reactions without further purification; ESMS m/z 205.2 (M+H+).

reactant | 2,5-Dimethyl-4-(pyridin-3-yl)aniline | 2.03 mmol, 403 mg | CC1=C(N)C=C(C(=C1)C=1C=NC=CC1)C | C13H14N2
reactant | HCl | 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
catalyst | PtO2 | 40 mg | O=[Pt]=O
product | 2,5-Dimethyl-4-(piperidin-3-yl)aniline | CC1=C(N)C=C(C(=C1)C1CNCCC1)C | C13H20N2
